US09290517B2
Step B: (3R,3aR,6R,6aR)-6-[1-allyl-6-chloro-5-[4-(5,6-dihydro-4H-pyrrolo[3,4-c]pyrazol-2-yl)phenyl]imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol
TFA (3.2 ml, 41.5 mmol) was added to a stirred solution of tert-butyl 2-[4-[2-[[(3R,3aR,6R,6aS)-6-[tert-butyl(dimethyl)silyl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]-1-allyl-6-chloro-imidazo[4,5-b]pyridin-5-yl]phenyl]-4,6-dihydropyrrolo[3,4-c]pyrazole-5-carboxylate (477.4 mg, 0.649 mmol) in DCM (3.2 ml). The reaction mixture was a pale yellow solution that was stirred at room temperature for 3 days. The reaction mixture was evaporated under reduced pressure to give a light yellow oil. Flash chromatography of the oil utilizing a 40 g silica RediSep Rf® column and employing a 0-10% (10% NH4OH/MeOH)/DCM gradient followed by 10% (10% NH4OH/MeOH)/DCM afforded the title compound as an off-white solid following lyophilization from ethanol and benzene. LC-MS: calculated for C26H25ClN6O4 520.16 observed m/e: 521.15 (M+H)+ (Rt 1.00/2 min)

reactant | TFA | 41.5 mmol, 3.2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 2-[4-[2-[[(3R,3aR,6R,6aS)-6-[tert-butyl(dimethyl)silyl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]-1-allyl-6-chloro-imidazo[4,5-b]pyridin-5-yl]phenyl]-4,6-dihydropyrrolo[3,4-c]pyrazole-5-carboxylate | 0.649 mmol, 477.4 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC=2N(C=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)N1N=C3C(=C1)CN(C3)C(=O)OC(C)(C)C)N2)CC=C | C37H47ClN6O6Si
reactant | NH4OH MeOH | [NH4+].[OH-].CO
reactant | ethanol | C(C)O | C2H6O
solvent | DCM | 3.2 ml | C(Cl)Cl | CH2Cl2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (3R,3aR,6R,6aR)-6-[1-allyl-6-chloro-5-[4-(5,6-dihydro-4H-pyrrolo[3,4-c]pyrazol-2-yl)phenyl]imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | C(C=C)N1C(=NC2=NC(=C(C=C21)Cl)C2=CC=C(C=C2)N2N=C1C(=C2)CNC1)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2O | C26H25ClN6O4
